US06982348B2
1) 3-methyl-1-(4-methylphenyl)butan-2-one
While stirring magnesium (22.5 g, 925 mmol) and iodine (1 crumb) in diethyl ether (400 ml), a solution of 4-methylbenzyl chloride (65.0 g, 463 mmol) in diethyl ether (500 ml) was dropwise added slowly at room temperature. After completion of the dropwise addition, the mixture was stirred at room temperature for 0.5 hr. To the reaction solution was added dropwise a solution of isobutyronitrile (21.31 g, 308.3 mmol) in diethyl ether (100 ml) under ice-cooling, and the mixture was stirred overnight at room temperature. To the reaction solution was added dropwise 1N hydrochloric acid under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The diethyl ether layer was separated from the mixture, and the aqueous layer was extracted with diethyl ether. The recovered organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1−9/1) to give the objective substance.

reactant | magnesium | 925 mmol, 22.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-methylbenzyl chloride | 463 mmol, 65.0 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | isobutyronitrile | 308.3 mmol, 21.31 g | C(C(C)C)#N | C4H7N
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-methyl-1-(4-methylphenyl)butan-2-one | CC(C(CC1=CC=C(C=C1)C)=O)C | C12H16O
